US07144908B2
ii) 3-(3-Iodophenyl)imidazolidine-2,4-dione
A solution of ethyl N-{[(3-iodophenyl)amino]carbonyl}glycinate (9.42 g) in DMF (60 ml) was treated with sodium hydride (60% oil dispersion, 1.2 g) at 20° C. After 2 h the reaction mixture was treated with aqueous 2M HCl (200 ml) and stirred overnight. The solid was collected by filtration, washed with water and dried to give the title compound (6.9 g) LCMS RT=2.45 min.

reactant | ethyl N-{[(3-iodophenyl)amino]carbonyl}glycinate | 9.42 g | IC=1C=C(C=CC1)NC(=O)NCC(=O)OCC | C11H13IN2O3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | HCl | 2M, 200 ml | Cl | ClH
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3-(3-Iodophenyl)imidazolidine-2,4-dione | 6.9 g | IC=1C=C(C=CC1)N1C(NCC1=O)=O | C9H7IN2O2
